US08258306B2
To a solution of 4-(phenyl(4-(trifluoromethyl)phenyl)methylene)piperidine (0.5 g, 1.57 mmol) in MeOH (15 mL) was added Pd/C (0.1 g) and the mixture was stirred in hydrogen at 3 atmospheric pressure for 12 h. It was filtered through silica gel pad, washed with MeOH and concentrated to give crude 4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidine (0.5 g, 98% yield) as a grey solid which was used in the next step without further purification. MS (ESI, pos. ion) m/z: 320 (M+1).

reactant | 4-(phenyl(4-(trifluoromethyl)phenyl)methylene)piperidine | 1.57 mmol, 0.5 g | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3N
solvent | MeOH | 15 mL | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidine | 0.5 g, 98% yield | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C19H20F3N
